US08492582B2
N,N-Dimethylformamide (0.9 μl) and oxalyl chloride (0.023 mL) were added to a methylene chloride (0.5 mL) suspension of 6-phenylpyridine-3-carboxylic acid (44 mg) at room temperature, followed by stirring at the same temperature for 1 hour. The reaction mixture was added to a solution mixture of tert-butyl 2-amino-4-phenylbenzoate (40 mg) in methylene chloride (1 mL) and triethylamine (0.17 mL) at room temperature, followed by stirring at same temperature for 1 hour. The solvent was evaporated under reduced pressure, and ethyl acetate and a 10% aqueous solution of citric acid were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Trikonex AB, FlashTube 2008, eluent: hexane/ethyl acetate=2:1] to obtain tert-butyl 4-phenyl-2-(6-phenylpyridine-3-carboxamido)benzoate.

reactant | N,N-Dimethylformamide | 0.9 μl | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.023 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-phenylpyridine-3-carboxylic acid | 44 mg | C1(=CC=CC=C1)C1=CC=C(C=N1)C(=O)O | C12H9NO2
reactant | tert-butyl 2-amino-4-phenylbenzoate | 40 mg | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CC=CC=C1 | C17H19NO2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.17 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-phenyl-2-(6-phenylpyridine-3-carboxamido)benzoate | C1(=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC(=CC1)C1=CC=CC=C1 | C29H26N2O3
